US08053454B2
3-Chloro-N-(5-chloro-2-(1H-tetrazol-5-yl)phenyl)thiophene-2-carboxamide
The intermediate 5-chloro-2-(1H-tetrazol-5-yl)aniline (200 mg, 1.0 mmol) and diisopropylethylamine (310 uL, 1.7 mmol) were taken up in 5 mL of dichloromethane. To the solution was added 3-chlorothiophene-2-carboyl chloride (221 mg, 1.2 mmol). The solution was stirred for 4 hours, at which point starting material was no longer detected by LCMS analysis. Dichloromethane (10 ml) was then added to solution. This solution was extracted 3 times with an aqueous solution of 0.1 N NaOH. The aqueous extractions were combined and concentrated HCl was added to until pH=1. The resulting precipitate was filtered and washed with acetonitrile to yield final product (141.1 mg, 41%). 1H NMR (400 MHz, d6-DMSO): 11.89 (s, 1H), 8.60 (s, 1H), 8.26 (d, 1H), 8.05 (d, 1H), 7.45 (d, 1H), 7.30 (d, 1H). MS (EI) for C12H7Cl2N5OS: 340.2 (M+H).

reactant | 5-chloro-2-(1H-tetrazol-5-yl)aniline | 1.0 mmol, 200 mg | ClC=1C=CC(=C(N)C1)C1=NN=NN1 | C7H6ClN5
reactant | diisopropylethylamine | 1.7 mmol, 310 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-chlorothiophene-2-carboyl chloride | 1.2 mmol, 221 mg | ClC1=C(SC=C1)C(=O)Cl | C5H2Cl2OS
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-Chloro-N-(5-chloro-2-(1H-tetrazol-5-yl)phenyl)thiophene-2-carboxamide | 141.1 mg, 41% | ClC1=C(SC=C1)C(=O)NC1=C(C=CC(=C1)Cl)C1=NN=NN1 | C12H7Cl2N5OS
